US04150105
(a) Preparation of p-nitrobenzyltriphenylphosphonium chloride
A solution of 26.3 g (0.10 moles) of triphenylphosphide and 17.2 g (0.10 moles) of p-nitrobenzyl chloride in 50 ml of benezene is refluxed for 2 hours. After cooling the solid is collected and washed with benzene. Crystallization from carbon tetrachloride petroleum ether gives colorless crystals, m.p. 278°-280° C.

reactant | triphenylphosphide | 0.10 moles, 26.3 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | p-nitrobenzyl chloride | 0.10 moles, 17.2 g | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
product | p-nitrobenzyltriphenylphosphonium chloride | [Cl-].[N+](=O)([O-])C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C25H21NO2P.ClH/c27-26(28)22-18-16-21(17-19-22)20-29(23-10-4-1-5-11-23,24-12-6-2-7-13-24)25-14-8-3-9-15-25;/h1-19H,20H2;1H/q+1;/p-1
